US07652053B2
cis-[4-(2,5-Dimethyl-benzoimidazol-1-yl)-cyclohexyl]-indan-2-ylmethyl-amine
This compound was prepared from the hydrochloride salt of cis-4-(2,5-dimethyl-benzoimidazol-1-yl)-cyclohexylamine and indan-2-carbaldehyde. 1H-NMR is consistent with the assigned structure, LC-MS showed a single peak, C25H31N3 (m/e) calcd 373.2518, obsd 374.2 (M+H).

reactant | cis-4-(2,5-dimethyl-benzoimidazol-1-yl)-cyclohexylamine | CC1=NC2=C(N1[C@H]1CC[C@H](CC1)N)C=CC(=C2)C | C15H21N3
reactant | indan-2-carbaldehyde | C1C(CC2=CC=CC=C12)C=O | C10H10O
product | cis-[4-(2,5-Dimethyl-benzoimidazol-1-yl)-cyclohexyl]-indan-2-ylmethyl-amine | CC1=NC2=C(N1[C@H]1CC[C@H](CC1)NCC1CC3=CC=CC=C3C1)C=CC(=C2)C | C25H31N3
